Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Demerol / Percocet
 
Attending: ___
 
Chief Complaint:
Leg cramping, dizziness, shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with PMH of HLD presenting
with acute-onset bilateral leg cramping of the calf and thigh,
dizziness and shortness of breath. She was in her usual state of
health until this morning when her symptoms began after she got
out of bed. She was able to ambulate to an adjacent room but
subsequently needed to sit down to catch her breath. She denied
any palpitations, hearing and vision disturbances or loss of
consciousness. Her husband and daughter became concerned and
called for an ambulance. Her symptoms gradually improved and she
was able to ambulate to the ambulance. In transit, she was found
to have intermittent episodes of bradycardia (HR ___ and
atrial fibrillation on monitor however she remained largely
asymptomatic.
 
In the ED:
- Patient reported: Mild residual dyspnea and leg cramping
- Initial vitals: HR 37 BP 111/73 RR 16 SpO2 94% RA 
- EKG: Sinus rhythm, low voltage lateral precordial leads
- Labs/studies notable for: Normal CMP (Cr 0.8). Negative trops.
Unremarkable CTA, CXR, ___ DVT U/S.
- Patient was given: NA
- Vitals on transfer: HR 82 BP 121/85 RR 21 SpO2 95% RA 
 
On the floor, the patient reports persistent crampy pain in her
calves bilaterally. She denies any chest pain, dyspnea,
paroxysmal nocturnal dyspnea, orthopnea, ankle edema,
palpitations, syncope or presyncope. She denies any prior 
history
of hyper/hypothyroidism, ACS, AF, stroke, TIA, DVT, PE, bleeding
disorders, myalgias, joint pains, cough, hemoptysis, nausea,
vomiting, black stools or numbness/tingling in extremities.
Denies recent fevers, chills or rigors. She says she is fairly
active without significant dyspnea on exertion and spent the
previous day picking fruit with her family without issue.

 
Past Medical History:
- Obesity
- Hyperlipidemia
- Interstitial cystitis
- Macular degeneration
- Recurrent UTI
- Hematuria 
- Osteopenia 
- Endometriosis 
- Uterine leiomyoma
- Fibroids
 
Social History:
___
Family History:
- Mother: ___ cancer (age ___, Dementia, osteoporosis 
- Father: Cold ___ present, osteoporosis, CHF 
- Sister: ___ cancer (age ___
- 2 sisters/3 brothers with CAD/PVD 
- Maternal Grandmother: CAD/PVD 
- Paternal Grandmother: No past medical history on file.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VITALS: Temp: 97.9, BP: 124/84, HR: 67, RR: 18, O2 sat: 95% RA
GENERAL: Well-developed, well-nourished. NAD. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI.
NECK: Supple with no evidence of JVD.
CARDIAC: RRR, normal S1, S2. No additional heart sounds. Soft 
systolic murmur heard best at upper sternal borders. 
LUNGS: Normal work of breathing. No crackles, wheezes or 
rhonchi.
ABDOMEN: Soft, non-tender, non-distended. No hepatosplenomegaly.
EXTREMITIES: ___ non-tender to palpation. No ___ edema.
PULSES: Distal pulses palpable and symmetric.

DISCHARGE PHYSICAL EXAM 
=======================
24 HR Data (last updated ___ @ 1129)
    Temp: 97.9 (Tm 98.4), BP: 124/84 (110-125/65-90), HR: 67
(___), RR: 18, O2 sat: 95% (93-97), O2 delivery: RA, Wt: 
200.18
lb/90.8 kg  
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
pallor or cyanosis of the oral mucosa.
NECK: Supple with no evidence of JVD. 
CARDIAC: RRR, normal S1, S2. No additional heart sounds. Soft
systolic murmur heard best at upper sternal borders.  
LUNGS: Normal work of breathing. No crackles, wheezes or 
rhonchi.
 
Pertinent Results:
ADMISSION LABS
==============
___ 06:38AM BLOOD WBC-6.8 RBC-4.41 Hgb-12.6 Hct-39.8 MCV-90 
MCH-28.6 MCHC-31.7* RDW-13.3 RDWSD-44.0 Plt ___
___ 06:38AM BLOOD Glucose-101* UreaN-16 Creat-0.7 Na-142 
K-4.0 Cl-107 HCO3-24 AnGap-11
___ 06:38AM BLOOD Albumin-3.8 Calcium-8.9 Phos-4.0 Mg-2.4
___ 06:38AM BLOOD TSH-1.0
___ 06:38AM BLOOD ALT-24 AST-26 LD(LDH)-220 AlkPhos-98 
TotBili-0.2
___ 12:25PM BLOOD CK-MB-13* cTropnT-<0.01
___ 07:50AM BLOOD cTropnT-<0.01

DISCHARGE LABS
==============
___ 07:50AM BLOOD WBC-8.3 RBC-4.36 Hgb-12.6 Hct-38.4 MCV-88 
MCH-28.9 MCHC-32.8 RDW-13.1 RDWSD-42.2 Plt ___
___ 07:50AM BLOOD ___ PTT-28.5 ___
___:50AM BLOOD Glucose-74 UreaN-17 Creat-0.8 Na-138 
K-3.9 Cl-103 HCO3-24 AnGap-11
___ 06:38AM BLOOD ALT-24 AST-26 LD(LDH)-220 AlkPhos-98 
TotBili-0.2
___ 07:50AM BLOOD Calcium-9.2 Phos-3.3 Mg-2.2
___ 08:24AM BLOOD Creat-0.72

TTE ___
===========
The left atrium is normal in size. The interatrial septum is 
aneurysmal. There is no evidence for an atrial septal defect by 
2D/color Doppler. The estimated right atrial pressure is ___ 
mmHg. There is mild symmetric left ventricular hypertrophy with 
a normal cavity size. There is mild (non-obstructive) focal 
basal septal hypertrophy. There is normal regional and global 
left ventricular systolic function. The visually estimated left 
ventricular ejection fraction is >=60%. Left ventricular cardiac 
index is normal (>2.5 L/min/m2). There is no resting left 
ventricular outflow tract gradient. No ventricular septal defect 
is seen. Normal right ventricular cavity size with normal free 
wall motion. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. There is no evidence for an aortic arch 
coarctation. The aortic valve leaflets (3) are mildly thickened. 
There is no aortic valve stenosis. There is no aortic 
regurgitation. The mitral valve leaflets appear structurally 
normal with no mitral valve prolapse. There is trivial mitral 
regurgitation. The pulmonic valve leaflets are not well seen. 
There is mild pulmonic regurgitation. The tricuspid valve 
leaflets appear structurally normal. There is physiologic 
tricuspid regurgitation. The estimated pulmonary artery systolic 
pressure is normal. There is no pericardial effusion. 
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/ global biventricular systolic 
function. No valvular pathology or pathologic flow identified. 
Normal pulmonary artery systolic pressure.
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
====================
[ ] In order to diagnose any possible arrhythmias the patient 
will be arranged for outpatient monitoring with a Zio 
___ monitor by the attending cardiologist on the 
inpatient service. 
[ ] Discuss referral to cardiology 

PATIENT SUMMARY:
================
___ w/ bilateral ___ cramping, dizziness, SOB found to have 
intermittent bradycardia to ___ with evidence of new AF on 
ambulance monitor. Currently asymptomatic with HR ___.

ACUTE ISSUES ADDRESSED:
=======================
# Bradycardia / Leg pain / Dizziness / Shortness of breath / 
Diaphoresis
Patient presenting with calf cramping, dizziness, shortness of 
breath and diaphoresis found to have intermittent AF and 
bradycardia which have not been corroborated by EKG. It is 
difficult to assess if symptoms are correlated with episodes of 
bradycardia as patient is unaware of bradycardia. Patient 
endorsing significant stress/anxiety in personal life. High 
suspicion that dizziness and shortness of breath are related to 
decreased cardiac output in setting of bradycardia. Unrelated 
causes of shortness of breath including ACS and PE are unlikely 
given patient denied chest pain, CTA and EKG unremarkable. 
Etiology of leg cramping is less clear, however possibly also 
related to hypoperfusion. Cramping due to electrolyte 
abnormality is unlikely given normal CMP. Differential of 
intermittent bradycardia includes conduction system 
abnormalities including SSS, excess vagal tone and AF with slow 
ventricular response. TSH normal. Stable CK elevation. No 
evidence of AV block on telemetry. TTE was performed to evaluate 
poor R-wave progression on EKG. This TTE showed LVH, but no 
other acute abnormalities. The patient will have outpatient 
cardiac monitoring arranged by Dr. ___ attending 
cardiologist for the ___. 

CHRONIC ISSUES:
===============
# HLD
Home simvastatin and aspirin were continued.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 20 mg PO QPM 
2. Fish Oil (Omega 3) ___ mg PO DAILY 
3. Cyanocobalamin 500 mcg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Ascorbic Acid ___ mg PO DAILY 
7. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Ascorbic Acid ___ mg PO DAILY  
2.  Aspirin 81 mg PO DAILY  
3.  Cyanocobalamin 500 mcg PO DAILY  
4.  Fish Oil (Omega 3) ___ mg PO DAILY  
5.  Multivitamins 1 TAB PO DAILY  
6.  Simvastatin 20 mg PO QPM  
7.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bradycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
 
WHY YOU WERE ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you were found to 
have a very slow heart beat. This resolved on its own. 

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL?
- You were monitored on telemetry overnight and did not have any 
more episodes of a slow heart rate. 
- You had labs done which were normal and did not show any 
evidence of heart damage 
- You had an echocardiogram (ultrasound) of your heart done 
which showed some mild thickening of the heart walls, but no 
other issues. 

WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
- Take all of your medications as prescribed (listed below)  
- Follow up with your doctors as listed below  
- You should talk to your primary care doctor about following up 
with a cardiologist and having outpatient cardiac monitoring 
done. 
- Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night.  
 
It was a pleasure participating in your care. We wish you the 
best!  
 
Your ___ Care Team  
 
Followup Instructions:
___